US04775677
N,N'-Diundecylthiourea
Thiophosgene (10.9 mls, 0.14 moles) is added dropwise to a well stirred mixture of undecylamine (49.9 g, 0.29 moles) and water (400 mls). The mixture is heated to reflux following the addition. After 45 minutes the mixture is allowed to cool while potassium carbonate (20.0 g, 0.14 moles) is added in portions, and is then reheated to reflux. After three hours the mixture is cooled and the product is filtered off, triturated in 2N HCl, refiltered, rinsed with water, and dried. Recrystallization from ethylacetate gave the product (32.7 g) mp 70°-72° C.

reactant | Thiophosgene | 0.14 moles, 10.9 mls | C(=S)(Cl)Cl | CCl2S
reactant | undecylamine | 0.29 moles, 49.9 g | C(CCCCCCCCCC)N | C11H25N
reactant | potassium carbonate | 0.14 moles, 20.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 400 mls | O | H2O
product | N,N'-Diundecylthiourea | 32.7 g | C(CCCCCCCCCC)NC(=S)NCCCCCCCCCCC | C23H48N2S
